* SpiceNetList
* 
* Exported from v1.sch at 04-12-2018 12:54 AM
* 
* EAGLE Version 9.2.2 Copyright (c) 1988-2018 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
R_R1 N_1 N_2 1 
V_V1 N_1 0 DC 0V AC 0 SIN(0 13V 50Hz 0 0) 
R_R3 N_1 N_2 1 
D_D1 N_2 0 1N4007 

* --------- models ---------

* model file: C:/Users/swana/OneDrive/Documents/EAGLE/spice/1N4007.mdl
*1N4007 MCE 8-16-95
*1000V 1A Si GenPurpose Diode pkg:DIODE0.4 1,2
.MODEL 1N4007 D(IS=2.55E-9 RS=0.042 N=1.75 TT=5.76E-6 CJO=1.85E-11 
+ VJ=0.75 M=0.333 BV=1000 IBV=9.86E-5 )


* --------- simulation ---------


.control
set filetype=ascii
TRAN 0.02 10 0 0.02 
write v1.sch.sim V(N_1) V(N_2) I(V_V1)
.endc

.END










